US06548694B2
The 5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-benzaldehyde (10.34 g) described in example 1.4 was dissolved in ethanol (160 ml). 4-Aminobenzonitrile (4.87 g) was added and stirred at room temperature. After 1 hour, 5.68 ml of morpholinoethyl isonitrile was added. The solution obtained was cooled to 0° C., then treated dropwise with 15.53 ml of boron trifluoride etherate in a manner such that the temperature did not exceed 5° C. The reaction mixture was stirred at 0° C. for 15 min and at room temperature for 1.5 h. Water (20 ml) was added and stirred overnight at room temperature. The crude product was isolated by extraction and purified by chromatography on silica gel and yielded 11.13 g of (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester as a yellowish solid. MS: 425 ([M+Na]+).

reactant | 5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-benzaldehyde | 10.34 g | C(C)OC=1C(=CC(=C(C=O)C1)F)OCCO | C11H13FO4
reactant | 4-Aminobenzonitrile | 4.87 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | morpholinoethyl isonitrile | 5.68 ml | O1CCN(CC1)CC[N+]#[C-] | C7H12N2O
reactant | boron trifluoride etherate | 15.53 ml | B(F)(F)F.CCOCC
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | Water | 20 ml | O | H2O
product | (RS)-(4-cyano-phenylamino)-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-acetic acid ethyl ester | 11.13 g | C(C)OC(C(C1=C(C=C(C(=C1)OCC)OCCO)F)NC1=CC=C(C=C1)C#N)=O | C21H23FN2O5
